US09388161B2
A mixture of (S)-methyl 6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.050 g, 0.167 mmol), 5-chloro-2-fluorobenzonitrile (0.065 g, 0.416 mmol), and cesium carbonate (0.136 g, 0.416 mmol) in DMF (2.0 mL) was heated at 100° C. for 16 h. The reaction mixture was cooled to room temperature and water was added. The mixture was partitioned between ethyl acetate and water. The aqueous phase was separated and extracted with ethyl acetate. The combined organic phases were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford a brown oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 0-25% ethyl acetate-hexane) to afford (S)-methyl 6-bromo-5-(4-chloro-2-cyanophenoxy)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.068 g, 94%) as an off-white solid. MS (ESI, pos. ion) m/z 435, 437 [M+H]+.

reactant | (S)-methyl 6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.167 mmol, 0.050 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)O | C12H14BrNO3
reactant | 5-chloro-2-fluorobenzonitrile | 0.416 mmol, 0.065 g | ClC=1C=CC(=C(C#N)C1)F | C7H3ClFN
reactant | cesium carbonate | 0.416 mmol, 0.136 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | (S)-methyl 6-bromo-5-(4-chloro-2-cyanophenoxy)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.068 g, 94% | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1=C(C=C(C=C1)Cl)C#N | C19H16BrClN2O3
